US07109192B2
3g) 3,5-dibenzyl-2-methylmercapto-3,5-dihydro-imidazo[4,5-c]pyridin-4-one
553 mg (4.0 mmol) of potassium carbonate and 0.48 ml (4.0 mmol) of benzyl bromide were added to a solution of 362 mg (2.0 mmol) of 2-methylmercapto-3,5-dihydro-imidazo[4,5-c]pyridin-4-one in 5.0 ml of dimethylformamide and this mixture was stirred for three hours at ambient temperature. Then it was diluted with 10 ml of water and extracted three times with 10 ml of ethyl acetate. The organic extracts were dried and evaporated down, the crude product thus obtained was purified by column chromatography (silica gel, eluant:dichloromethane with 0–3% ethanol).

reactant | potassium carbonate | 4.0 mmol, 553 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.0 mmol, 0.48 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-methylmercapto-3,5-dihydro-imidazo[4,5-c]pyridin-4-one | 2.0 mmol, 362 mg | CSC1=NC2=C(C(NC=C2)=O)N1 | C7H7N3OS
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 3,5-dibenzyl-2-methylmercapto-3,5-dihydro-imidazo[4,5-c]pyridin-4-one | Yield: 26% | C(C1=CC=CC=C1)N1C(=NC2=C1C(N(C=C2)CC2=CC=CC=C2)=O)SC | C21H19N3OS
